US07361659B2
7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-sulfamoyl-[1,3,4]thiadiazol-2-yl)-amide
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 5-amino-[1,3,4]thiadiazole-2-sulfonic acid amide [commercially available, CAS 14949-00-9] according to general procedure II.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | 5-amino-[1,3,4]thiadiazole-2-sulfonic acid amide | NC1=NN=C(S1)S(=O)(=O)N | C2H4N4O2S2
product | 7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-sulfamoyl-[1,3,4]thiadiazol-2-yl)-amide | S(N)(=O)(=O)C1=NN=C(S1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C17H9F6N7O3S2
